US06043358
Employing the procedure described in Example 2, step D, tetrahydro-3-propyl-(2H)-1,4-thiazepin-5-thione was reacted with Meerwein's salt and ammonium chloride to yield hexahydro-5-imino-3-propyl-1,4-thiazepine, hydrochloride.

reactant | tetrahydro-3-propyl-(2H)-1,4-thiazepin-5-thione | C(CC)C1CSCCC(N1)=S | C8H15NS2
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
reactant | ammonium chloride | [Cl-].[NH4+]
product | hexahydro-5-imino-3-propyl-1,4-thiazepine, hydrochloride | Cl.N=C1NC(CSCC1)CCC | InChI=1S/C8H16N2S.ClH/c1-2-3-7-6-11-5-4-8(9)10-7;/h7H,2-6H2,1H3,(H2,9,10);1H
